US08168821B2
tert-Butyl 4-{4-[1-(2-ethoxy-2-oxoethyl)cyclopropyl]-2-(hydroxymethyl)butyl}benzoate
At −10° C., 25.71 ml (25.71 mmol) of a 1 M borane/THF complex solution are added dropwise to a solution of 5199 mg (12.85 mmol) of 2-[4-(tert-butoxycarbonyl)benzyl]-4-[1-(2-ethoxy-2-oxo-ethyl)cyclopropyl]butanoic acid in 100 ml of THF. After warming to 0° C., the mixture is stirred at this temperature for another two hours and then at room temperature for another hour. After complete conversion, saturated ammonium chloride solution is added, and the reaction mixture is extracted three times with in each case 50 ml of ethyl acetate. The combined organic phases are then dried over sodium sulfate, and the solvent is removed to dryness. The crude product obtained is purified by flash chromatography on silica gel (mobile phase: cyclohexane/ethyl acetate 2:1). This gives 3412 mg (68% of theory) of a colorless oil.

reactant | 2-[4-(tert-butoxycarbonyl)benzyl]-4-[1-(2-ethoxy-2-oxo-ethyl)cyclopropyl]butanoic acid | 12.85 mmol, 5199 mg | C(C)(C)(C)OC(=O)C1=CC=C(CC(C(=O)O)CCC2(CC2)CC(=O)OCC)C=C1 | C23H32O6
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | tert-Butyl 4-{4-[1-(2-ethoxy-2-oxoethyl)cyclopropyl]-2-(hydroxymethyl)butyl}benzoate | C(C)OC(CC1(CC1)CCC(CC1=CC=C(C(=O)OC(C)(C)C)C=C1)CO)=O | C23H34O5
